US07622469B2
2,4-Diamino-1,6-dihydro-1-(2′,3′,4′-trifluorophenyl)-6-nonyl-1,3,5-triazine hydrochloride
100 ml of ethanol, 5.3 ml (28.1 mmol) of 1-decanal and 0.8 ml of concentrated hydrochloric acid were added to 5.0 g (18.7 mmol) of N1-(2,3,4-trifluorophenyl)-biguanide hydrochloride, and the mixture was refluxed for 4 hours. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (elution with a mixture of chloroform and methanol (9:2)), and recrystallized from 80% aqueous acetonitrile to obtain 4.7 g of colorless crystals having a melting point of 210 to 212° C.

reactant | 1-decanal | 28.1 mmol, 5.3 ml | C(CCCCCCCCC)=O | C10H20O
reactant | hydrochloric acid | 0.8 ml | Cl | ClH
reactant | N1-(2,3,4-trifluorophenyl)-biguanide hydrochloride | 18.7 mmol, 5.0 g | Cl.FC1=C(C=CC(=C1F)F)NC(=N)NC(=N)N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,4-Diamino-1,6-dihydro-1-(2′,3′,4′-trifluorophenyl)-6-nonyl-1,3,5-triazine hydrochloride | 4.7 g | Cl.NC=1N(C(N=C(N1)N)CCCCCCCCC)C1=C(C(=C(C=C1)F)F)F | InChI=1S/C18H26F3N5.ClH/c1-2-3-4-5-6-7-8-9-14-24-17(22)25-18(23)26(14)13-11-10-12(19)15(20)16(13)21;/h10-11,14H,2-9H2,1H3,(H4,22,23,24,25);1H
